US04789705
The same isocyanuration reaction as in Example 1 was carried out except that 3,290 g of hexamethylene diisocyanate and 210 g of "Takenate 500" (xylylene diisocyanate produced by Takeda Chemical Industry Co., Ltd.) were used instead of 3,500 g of hexamethylene diisocyanate, and the amount of the isocyanuration catalyst used in Example 1 was changed to 4.7 g. There was obtained 4,219 g of the reaction mixture containing the deactivated catalyst.

reactant | Takenate 500 | C1=CC(=CC(=C1)CN=C=O)CN=C=O | C10H8N2O2
reactant | xylylene diisocyanate | C=1(C(=CC=CC1)CN=C=O)CN=C=O | C10H8N2O2
product | hexamethylene diisocyanate | 3,290 g | C(CCCCCN=C=O)N=C=O | C8H12N2O2
